US07301032B2
400 mg of 3-methylsulfonyl-5-(4-methylcyclohexyl)-1,2,4-thiadiazole and 129 mg of 2-butyn-1-ol were dissolved in 3 ml of N,N-dimethylformamide, 80 mg of sodium hydride (60% in oil) was added thereto under ice-cooling, and the reaction mixture was stirred for 1 hour under ice-cooling and for 12 hours at room temperature. Then, the reaction mixture was added to saturated brine, and extracted with t-butyl methyl ether. The organic layer was concentrated under reduced pressure, and the residue obtained was subjected to silica gel column chromatography to give 258 mg of 5-(4-methylcyclohexyl)-3-(2-butynyloxy)-1,2,4-thiadiazole (hereinafter referred to as the present invention compound (12)).

reactant | 3-methylsulfonyl-5-(4-methylcyclohexyl)-1,2,4-thiadiazole | 400 mg | CS(=O)(=O)C1=NSC(=N1)C1CCC(CC1)C | C10H16N2O2S2
reactant | 2-butyn-1-ol | 129 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 80 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 5-(4-methylcyclohexyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | 258 mg | CC1CCC(CC1)C1=NC(=NS1)OCC#CC | C13H18N2OS
